US05801195
Methyl N-(4-nitrobenzoyl)-3-amino-3-(3,4-dimethoxyphenyl)propionate.
To an ice bath cooled stirred suspension of methyl 3-amino-3-(3,4-dimethoxyphenyl)propionate hydrochloride(1.38 grams, 5.00 mmol) and triethylamine (1.5 milliliters, 10.8 mmol) in 25 milliliters of tetrahydrofuran was added 4-nitrobenzoyl chloride (0.928 grams, 5.00 mmol) in a single portion. After 15 minutes, the cooling bath was removed and the reaction mixture stirred for 45 minutes. The reaction mixture was then diluted with 50 milliliters of water. The reaction slurry was filtered and the solid washed with water, air-dried, and then dried in vacuo (60 C, <1 mm) to afford 1.86 grams (94%) of the product as a yellow powder: 1H NMR (CDCl3 /TMS, 250 MHz) δ 8.27 (d, J=8.8 Hz, 2 H), 7.98 (d, J=8.8 Hz, 2 H), 7.77 (d, J=8.1 Hz, 1 H, NH), 6.95-6.75 (m, 3 H, Ar), 5.55 (m, 1 H, CH), 3.86 & 3.85 (2 s, 6 H, 2 OCH3), 3.68 (s, 3 H, CO2 CH3), 3.00 (m, 2 H, CH2); 13C NMR (CDCl3 /TMS) δ 172.2, 164.4, 149.6, 1491, 148.7, 139.7, 132.6, 128.2, 123.8, 118.1, 111.2, 109.9, 55.9, 55.8, 52.0, 50.0, 39.3.

reactant | methyl 3-amino-3-(3,4-dimethoxyphenyl)propionate hydrochloride | 5.00 mmol, 1.38 grams | Cl.NC(CC(=O)OC)C1=CC(=C(C=C1)OC)OC
reactant | triethylamine | 10.8 mmol, 1.5 milliliters | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzoyl chloride | 5.00 mmol, 0.928 grams | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | tetrahydrofuran | 25 milliliters | O1CCCC1 | C4H8O
product | Methyl N-(4-nitrobenzoyl)-3-amino-3-(3,4-dimethoxyphenyl)propionate | 1.86 grams, 94% | [N+](=O)([O-])C1=CC=C(C(=O)NC(CC(=O)OC)C2=CC(=C(C=C2)OC)OC)C=C1 | C19H20N2O7
